US04853384
To a stirred solution of 4.0 g of 4-(4-nitrophenoxy)-4-phenylpiperidine in 50 ml of 95% ethanol was added 1.68 g of nitrourea in 50 ml of 95% ethanol. The reaction mixture was refluxed for two hours and then poured into 200 ml of water. The aqueous suspension was extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated. The resulting solid was purified by high pressure liquid chromatography (silica gel; elution with 5% methanol/dichloromethane) to yield 4.04 g (91.20%) of 1-aminocarbonyl-4-(4-nitrophenoxy)-4-phenylpiperidine, m.p. 203°-206° C.

reactant | 4-(4-nitrophenoxy)-4-phenylpiperidine | 4.0 g | [N+](=O)([O-])C1=CC=C(OC2(CCNCC2)C2=CC=CC=C2)C=C1 | C17H18N2O3
reactant | nitrourea | 1.68 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | water | 200 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-aminocarbonyl-4-(4-nitrophenoxy)-4-phenylpiperidine | 4.04 g, 91.20% | NC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H19N3O4
